US07012075B2
4-Bromobenzylalcohol (1.1 g, 5.9 mmoles) in 12 mL of DMF was treated with sodium hydride (260 mg, 60% oil dispersion, 6.5 mmoles) and stirred for 30 minutes. Methyl 2-bromo-4-methylpentanoate (1.1 mL, 6.8 mmoles) was added in one portion and the reaction was stirred overnight. The reaction was diluted with diethyl ether, ethyl acetate, water and sat. aq. bicarbonate. The phases were separated and the organic phase was washed with 2 portions of 1.2 N hydrochloric acid and then brine. The organic phase was dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield a residue which was purified by flash chromatography to afford methyl 2-[(4-bromobenzyl)oxy]-4-methylpentanoate.

reactant | 4-Bromobenzylalcohol | 5.9 mmoles, 1.1 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | sodium hydride | 6.5 mmoles, 260 mg | [H-].[Na+]
reactant | Methyl 2-bromo-4-methylpentanoate | 6.8 mmoles, 1.1 mL | BrC(C(=O)OC)CC(C)C | C7H13BrO2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | bicarbonate | C([O-])(O)=O
product | methyl 2-[(4-bromobenzyl)oxy]-4-methylpentanoate | BrC1=CC=C(COC(C(=O)OC)CC(C)C)C=C1 | C14H19BrO3
